US04061761
a. 4'-Chloro-3'-phenylsulfamoylacetophenone
12.6 g of 4'-chloro-3'-chlorosulfonylacetophenone were introduced, while stirring, in a mixture of 5.6 g of aniline, 7.5 g of triethyl amine and 100 ml of dioxane. The mixture was allowed to dwell over night at 20° C, it was heated to 60° C during 30 minutes while stirring and the separated triethylamine-hydrochloride was separated. The filtrate was concentrated under reduced pressure and the residue was crystallized under water. Colorless crystals (from isopropanol/active charcoal, melting point: 142° C.

reactant | 4'-chloro-3'-chlorosulfonylacetophenone | 12.6 g | ClC1=C(C=C(C=C1)C(C)=O)S(=O)(=O)Cl | C8H6Cl2O3S
reactant | triethyl amine | 7.5 g | C(C)N(CC)CC | C6H15N
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | aniline | 5.6 g | NC1=CC=CC=C1 | C6H7N
product | 4'-Chloro-3'-phenylsulfamoylacetophenone | ClC1=C(C=C(C=C1)C(C)=O)S(NC1=CC=CC=C1)(=O)=O | C14H12ClNO3S
